US04002746
13β-Ethyl-17β-isovaleroyloxy-gon-4-en-3-one
Keep 13β-ethyl-17β-hydroxy-gon-4-en-3-one (6 g.) with isovaleroyl chloride (7.2 g.) in pyridine at room temperature for 20 hours. Add aqueous sodium bicarbonate and extract the product with ether. Wash, dry and evaporate the extracts and purify the residue by chromatography upon neutral alumina. Distill at 200°-230°/.01 mm. and crystallize from hexane to obtain the title compound, m.p. 82°- 89°; ultraviolet absorption peak at 240 mμ (ε15,650); infrared absorption peaks at 5.76, 5.99, 6.18 μ.

reactant | 13β-ethyl-17β-hydroxy-gon-4-en-3-one | 6 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
reactant | isovaleroyl chloride | 7.2 g | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 13β-Ethyl-17β-isovaleroyloxy-gon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(CC(C)C)=O | C24H36O3
